US04902794
In the manner given in Example 11, a solution of 1,3-dihydro-9-propylthio-3-methyl-5-(2,6-diethylphenyl)-2H-1,4-benzodiazepine-2-thione and hydroxyacetic acid hydrazide in n-butylalchol was refluxed to give 10-propylthio-1-(hydroxymethyl)-4-methyl-6-(2,6-diethylphenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine.

reactant | 1,3-dihydro-9-propylthio-3-methyl-5-(2,6-diethylphenyl)-2H-1,4-benzodiazepine-2-thione | C(CC)SC1=CC=CC=2C(=NC(C(NC21)=S)C)C2=C(C=CC=C2CC)CC | C23H28N2S2
reactant | hydroxyacetic acid hydrazide | OCC(=O)NN | C2H6N2O2
product | 10-propylthio-1-(hydroxymethyl)-4-methyl-6-(2,6-diethylphenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine | C(CC)SC1=CC=CC=2C(=NC(C=3N(C21)C(=NN3)CO)C)C3=C(C=CC=C3CC)CC | C25H30N4OS
